US09061994B1
Synthesis of trans-3-(5-phenylmethoxy-1H-indol-3-yl)-1-(4-pyridinyl)-2-propen-1-one (14)
In a dried, 25 mL round bottom flask under argon, 5-benzyloxyindole-3-carboxaldehyde (100 mg, 0.40 mmol) was dissolved in anhydrous methanol (3 mL). 4-Acetyl-pyridine (75 μL, 0.68 mmol) and piperidine (20 μL, 0.2 mmol) were added. The reaction was stirred under reflux, during which a crude yellow solid precipitated. The solid was filtered, rinsed with cold methanol and dried under vacuum. This crude product (107 mg) was purified from residual aldehyde by column chromatography in ethyl acetate:hexanes (1:1-3:1 gradient), yielding pure, yellow solid (70 mg, 49%). 1H NMR (600 MHz, d6-DMSO): δ 8.837-8.827 (dd, J1=4.5, J2=1.5, 2H, pyr-2,6H), 8.148-8.143 (d, J=3.0, 1H, indole-2H), 8.095-8.069 (d, J=15.6, 1H, C═CH), 7.932-7.922 (dd, J1=4.5, J2=1.5, 2H, pyr-3,5H), 7.556-7.553 (d, J=1.8, 1H, indole-4H), 7.523-7.511 (d, J=7.2, 2H, phenyl-2,6H), 7.460-7.434 (d, J=15.6, 1H, C═CH), 7.411-7.370 (m, 3H, phenyl-3,5H, indole-7H), 7.330-7.306 (t, J=7.2, 1H, phenyl-4H), 6.979-6.961 (dd, J1=8.4, J2=2.4, 1H, indole-6H), 5.252 (s, 2H, methylene). 13C NMR (150 MHz, d6-DMSO): 188.4, 154.1, 150.7, 144.9, 140.9, 137.7, 134.6, 132.5, 128.4, 127.7, 127.6, 125.8, 121.5, 114.2, 113.3, 113.1, 112.7, 104.1, 69.8. Melting point: 218-221° C. TLC (in 4:1 ethyl acetate:hexanes) Rf=0.26. Elemental analysis calculated (for C23H19N2O2.0.2C6H14.0.05H2O): C, 78.02; H, 5.93; N, 7.52. found: C, 77.69; H, 5.62; N, 7.24.

reactant | 5-benzyloxyindole-3-carboxaldehyde | 0.40 mmol, 100 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C=O | C16H13NO2
reactant | 4-Acetyl-pyridine | 0.68 mmol, 75 μL | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | piperidine | 0.2 mmol, 20 μL | N1CCCCC1 | C5H11N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
product | trans-3-(5-phenylmethoxy-1H-indol-3-yl)-1-(4-pyridinyl)-2-propen-1-one | C1(=CC=CC=C1)COC=1C=C2C(=CNC2=CC1)/C=C/C(=O)C1=CC=NC=C1 | C23H18N2O2
